US06214877B1
step 6 (5′-Hexyl-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid
The title compound was prepared as a white solid (0.559 g, 67%) from (5′-Hexyl-[1,1′;3′1″]terphenyl-2′-yloxy)acetic acid, methyl ester (0.870 g, 2.161 mmol) using a procedure similar to step 4 of example 165; mp 87-89° C.; 1H NMR (400 MHz, DMSO-d6) δ0.82-0.86 (m, 3H), 1.22-1.37 (m, 6H), 1.56-1.64 (m, 2H), 2.61 (t, J=7.5 Hz, 2H), 3.71 (s, 2H), 7.16 (s, 2H), 7.32-7.37 (m, 2H), 7.39-7.44 (m, 4H), 7.54-7.59 (m, 4H), 12.47 (broad s, 1H); IR (KBr) 3450, 2920, 1725, 1420, 1210 cm−1; mass spectrum [EI], m/z 388 M+;

reactant | (5′-Hexyl-[1,1′;3′1″]terphenyl-2′-yloxy)acetic acid, methyl ester | 2.161 mmol, 0.870 g | C(CCCCC)C=1C=C(C(=C(C1)C1=CC=CC=C1)OCC(=O)OC)C1=CC=CC=C1 | C27H30O3
reactant | KBr | [K+].[Br-]
product | (5′-Hexyl-[1,1′;3′,1″]terphenyl-2′-yloxy)acetic acid | C(CCCCC)C=1C=C(C(=C(C1)C1=CC=CC=C1)OCC(=O)O)C1=CC=CC=C1 | C26H28O3
